US09290451B2
5-Cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid ((S)-1-dimethylcarbamoyl-3-methyl-butyl)-amide
The title compound was synthesized in analogy to Example 1, using 5-cyclopropyl-6-cyclopropylmethyloxy-pyridine-2-carboxylic acid (Example 42 a) and (2S)-2-amino-N,N,4-trimethyl-pentanamide hydrochloride (1:1) (CAN 207595-81-1) as starting materials, LC-MS (UV peak area/ESI) 100%, 374.2240 (M+H)+.

reactant | 5-cyclopropyl-6-cyclopropylmethyloxy-pyridine-2-carboxylic acid | C1(CC1)C=1C=CC(=NC1OCC1CC1)C(=O)O | C13H15NO3
reactant | (2S)-2-amino-N,N,4-trimethyl-pentanamide hydrochloride | Cl.N[C@H](C(=O)N(C)C)CC(C)C
product | 5-Cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid ((S)-1-dimethylcarbamoyl-3-methyl-butyl)-amide | CN(C(=O)[C@H](CC(C)C)NC(=O)C1=NC(=C(C=C1)C1CC1)OCC1CC1)C | C21H31N3O3
